US04411910
3.36 g of 5-(2,4-difluorophenoxy)-4-nitrophthalic acid in 20 ml of absolute tetrahydrofuran is reduced as described in Example 7(d) with 150 ml of a 0.3-molar borane-tetrahydrofuran complex solution in tetrahydrofuran. After crystallization from ethanol/water and ethyl acetate/hexane, 2.1 g of 5-(2,4-difluorophenoxy)-4-nitrophthalyl alcohol is obtained, mp 123.5°-124.5° C.

reactant | 5-(2,4-difluorophenoxy)-4-nitrophthalic acid | 3.36 g | FC1=C(OC2=C(C=C(C(C(=O)O)=C2)C(=O)O)[N+](=O)[O-])C=CC(=C1)F | C14H7F2NO7
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 5-(2,4-difluorophenoxy)-4-nitrophthalyl alcohol | 2.1 g | FC1=C(OC2=C(C=C(C(CO)=C2)CO)[N+](=O)[O-])C=CC(=C1)F | C14H11F2NO5
